US04496720
1.62 g (8.1 mmoles) of phenacyl bromide were added to a solution of 1.90 g (7.76 mmoles) of 1-trimethylsilyl-3-trimethylsilylthio-1H-1,2,4-triazole in 10 ml of acetonitrile and 1.55 ml of hexamethylphosphoric triamide and the reaction was complete after stirring for 15 minutes at room temperature. The precipitate formed after the addition of 4 ml of methanol was filtered off and was washed with diethyl ether and with hexane to obtain a yield of 1.85 g (79.5%) of 3-phenacylthio-1H-1,2,4-triazole hydrobromide melting at 201.5°-202° C. (dec.). A second crop of 0.3 g (13%) melting at 191°-192° C. (dec.)) was isolated from the mother liquor. 0.90 g of this salt was taken up in 10 ml of water which was layered with 20 ml of ethyl acetate. The pH was adjusted to 9 with 1N potassium hydroxide and the free base was extracted from the water layer with ethylacetate to obtain 0.66 g (100% yield) of 3-phenacylthio-1H-1,2,4-triazole melting at 119°-120° C. Crystallization from ethyl acetate raised the melting point to 120°-121° C.

reactant | phenacyl bromide | 8.1 mmoles, 1.62 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | 1-trimethylsilyl-3-trimethylsilylthio-1H-1,2,4-triazole | 7.76 mmoles, 1.90 g | C[Si](N1N=C(N=C1)S[Si](C)(C)C)(C)C | C8H19N3SSi2
reactant | methanol | 4 ml | CO | CH4O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | hexamethylphosphoric triamide | 1.55 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 3-phenacylthio-1H-1,2,4-triazole hydrobromide | yield of 1.85 g, 79.5% | Br.C(C(=O)C1=CC=CC=C1)SC1=NNC=N1 | InChI=1S/C10H9N3OS.BrH/c14-9(8-4-2-1-3-5-8)6-15-10-11-7-12-13-10;/h1-5,7H,6H2,(H,11,12,13);1H
